US04943574
2.47 Parts of 5-(1H-imidazol-1-ylmethyl)-1H-benzotriazole were added portionwise to 30 parts of fuming nitric acid while stirring. Upon complete addition, stirring was continued overnight at room temperature. The reaction mixture was poured into 100 parts of crushed ice and nitrogen was bubbled through the mixture during 30 minutes. The precipitated product was filtered off, washed with water and purified by reversed phase chromatography (HPLC) over Li Chroprep RP 18 using a mixture of methanol, acetonitrile and an ammonium acetate solution 0.5% (17:8:75 by volume) as eluent. The desired fraction was collected and the eluent was evaporated. The residue was stirred in methanol and 2,2'-oxybispropane. The precipitated product was filtered off and boiled in methanol. The product was filtered off, washed with methanol and 2,2'-oxybispropane and dried in vacuo at 50°-60° C., yielding 0.05 parts (1.6%) of 5-(1H-imidazol-1-ylmethyl)-6-nitro-1H-benzotriazole; mp. 286.0° C. (decomp.) (compound 235).

reactant | 5-(1H-imidazol-1-ylmethyl)-1H-benzotriazole | N1(C=NC=C1)CC1=CC2=C(NN=N2)C=C1 | C10H9N5
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 5-(1H-imidazol-1-ylmethyl)-6-nitro-1H-benzotriazole | 1.6% | N1(C=NC=C1)CC1=CC2=C(NN=N2)C=C1[N+](=O)[O-] | C10H8N6O2
